US05932739
N-(pyridin-3-yl)-2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carboxamide
Beginning with 0.17 gm (0.57 mMol) N,N-dimethyl-8-carboxy-1,2,3,4-tetrahydro-2-dibenzofuranamine and 0.06 gm (0.63 mMol) 3-aminopyridine, 0.083 gm (44%) of the title compound were recovered as an off-white foam by the procedure described in Example 25.

reactant | N,N-dimethyl-8-carboxy-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.57 mMol, 0.17 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)C(=O)O)CC1)C | C15H17NO3
reactant | 3-aminopyridine | 0.63 mMol, 0.06 gm | NC=1C=NC=CC1 | C5H6N2
product | N-(pyridin-3-yl)-2-dimethylamino-1,2,3,4-tetrahydrodibenzofuran-8-carboxamide | 0.083 gm, 44% | N1=CC(=CC=C1)NC(=O)C=1C=CC2=C(C3=C(O2)CCC(C3)N(C)C)C1 | C20H21N3O2
